US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxamide
Using N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide (150 mg, 0.460 mmol), N,N-dimethylacetamide (3.0 mL), 2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxylic acid (138 mg, 0.644 mmol), HATU (262 mg, 0.689 mmol) and N,N-diisopropylethylamine (120 μL, 0.689 mmol) and in the same manner as in Example 10, the title compound (171 mg, 71%) was obtained as a pale-yellow solid.

reactant | N-[6-(4-amino-2-fluorophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 0.460 mmol, 150 mg | NC1=CC(=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=C1)F | C17H15FN4O2
reactant | 2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxylic acid | 0.644 mmol, 138 mg | O=C1N(C=CC=C1C(=O)O)C1=CC=CC=C1 | C12H9NO3
reactant | HATU | 0.689 mmol, 262 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.689 mmol, 120 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylacetamide | 3.0 mL | CN(C(C)=O)C | C4H9NO
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxamide | 171 mg, 71% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(C=CC2)C2=CC=CC=C2)=O)F)C1 | C29H22FN5O4
